US04939253
(A) Bromoacetic acid, [(3-pentyloxy)carbonyl]-methyl ester
Bromoacetic acid, 3-pentyl ester (330 g, 1.6 mole) was dissolved in 300 ml of dimethylformamide. Bromoacetic acid, potassium salt (142 g) was added portionwise with stirring and the mixture was stirred overnight. It was then poured into 1 liter of ice-cold water and 500 ml of ether was added. After washing with water, NaHCO3 solution and drying with MgSO4, the ether was evaporated. On distillation 156 g of the starting ester was recovered and 103.5 g of the title compound (boiling point 160°-162° C. at 12 mm of Hg) was obtained.

reactant | Bromoacetic acid, 3-pentyl ester | 1.6 mole, 330 g | BrCC(=O)OC(CC)CC | C7H13BrO2
reactant | Bromoacetic acid | BrCC(=O)O | C2H3BrO2
reactant | potassium | 142 g | [K] | K
reactant | ether | 500 ml | CCOCC | C4H10O
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | Bromoacetic acid, [(3-pentyloxy)carbonyl]-methyl ester | 103.5 g | BrCC(=O)OCC(=O)OC(CC)CC | C9H15BrO4
